US07226918B2
b) N-(tertbutoxycarbonyl)-2,3-dihydro-benzo[1,4]oxazine:
A solution of dry acetone (100 mL) containing N-(tertbutoxycarbonyl)-2-aminophenol (0.722 g, 3.69 mmol), potassium carbonate (10.2 g, 73.8 mmol) and 1,2-dibromobutane (2.54 mL, 29.6 mmol) was refluxed for 18 h. The reaction was monitored by TLC (petrol/ether 8/2). After cooling, the mixture was filtered through celite. After concentration and hydrolysis, the aqueous layer was extracted with EtOAc (3×40 mL), dried over MgSO4 and the solvent was removed under reduce pressure. The crude product was purified by flash chromatography on silica gel (petrol/EtOAc 95/5) to yield the title compound as a white solid (0.70 g, 82%). m.p=78-79° C.; Rf=0.44(petrol/ether 8/2); LCMS m/z 236 ([M+1]+); 1H NMR (300 MHz, CDCl3): δ 1.59 (9H, s); 3.87 (4H, m); 4.26 (4H, m); 6.86-7.02 (4H, m); 13C NMR (75 MHz, CDCl3): δ 27.4 (3C); 41.1; 64.6(2C); 80.6 (2C); 116.0; 119.2; 122.6; 123.4; 125.2; 144.9; 151.6. IR (film): 2975; 1696; 1494; 1143 cm−1.

reactant | N-(tertbutoxycarbonyl)-2-aminophenol | 3.69 mmol, 0.722 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)O | C11H15NO3
reactant | potassium carbonate | 73.8 mmol, 10.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromobutane | 29.6 mmol, 2.54 mL | BrCC(CC)Br | C4H8Br2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | N-(tertbutoxycarbonyl)-2,3-dihydro-benzo[1,4]oxazine | 0.70 g, 82% | C(C)(C)(C)OC(=O)N1CCOC2=C1C=CC=C2 | C13H17NO3
